US07538123B2
(5) 1-{1-[2-(6-Methoxy-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)ethyl]piperidin-4-yl}-1H-indole-6-carboxamide
100 mg of 1-(piperidin-4-yl)-1H-indole-6-carboxamide and 87 mg of (6-methoxy-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)acetaldehyde were suspended in 5 ml of methylene chloride. Thereafter, 0.05 ml of acetic acid and 0.13 g of sodium triacetoxyborohydride were added to the reaction solution, and the obtained mixture was stirred at room temperature overnight. Thereafter, a saturated sodium bicarbonate aqueous solution was added to the reaction solution, followed by extraction with chloroform. The extract was dried over magnesium sulfate and then concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (chloroform-methanol) and by NH silica gel column chromatography (chloroform-methanol), and then reprecipitated from ethyl acetate, so as to obtain 18 mg of the subject compound.

reactant | 1-(piperidin-4-yl)-1H-indole-6-carboxamide | 100 mg | N1CCC(CC1)N1C=CC2=CC=C(C=C12)C(=O)N | C14H17N3O
reactant | (6-methoxy-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)acetaldehyde | 87 mg | COC=1C=C2CCC(NC2=CC1CC=O)=O | C12H13NO3
reactant | sodium triacetoxyborohydride | 0.13 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 0.05 ml | C(C)(=O)O | C2H4O2
product | 1-{1-[2-(6-Methoxy-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)ethyl]piperidin-4-yl}-1H-indole-6-carboxamide | 18 mg | COC=1C=C2CCC(NC2=CC1CCN1CCC(CC1)N1C=CC2=CC=C(C=C12)C(=O)N)=O | C26H30N4O3
